US05102667
Trifluoroacetic acid (15 drops) is added to a solution of 4,4-bis-(3-chlorophenyl)-cyclohexenone (26.8 g) and N-butoxymethyl-N-trimethylsilylmethylbenzylamine (33 cc) in dry dichloromethane (200 cc). The reaction mixture is brought to reflux and then stirred for 16 hours after having allowed the temperature to return to 25° C. and for a further 15 minutes after addition of potassium carbonate (16 g). After filtering and concentrating the filtrate to dryness under reduced pressure (2.7 kPa), the residue is chromatographed on a silica gel column (particle size 0.04-0.063 mm, diameter 7 cm, height 40 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (75/25 by volume) and collecting 500 cc fractions. Fractions 12 to 18 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give (3aRS,7aRS)-2-benzyl-7,7-bis-(3-chlorophenyl)-4-perhydroisoindolone (16.2 g) in the form of a yellow oil.

reactant | 4,4-bis-(3-chlorophenyl)-cyclohexenone | 26.8 g | ClC=1C=C(C=CC1)C1(C=CC(CC1)=O)C1=CC(=CC=C1)Cl | C18H14Cl2O
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 33 cc | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | potassium carbonate | 16 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Trifluoroacetic acid | 15 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 200 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-benzyl-7,7-bis-(3-chlorophenyl)-4-perhydroisoindolone | 16.2 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=CC(=CC=C1)Cl)C1=CC(=CC=C1)Cl | C27H25Cl2NO
